US04727073
A mixture of 2-(4-methylpiperazin-1-ylcarbonyl)-1-(3-nitrophenyl)-1-buten-3-one (20 g), benzamidine hydrochloride (9.9 g) and triethylamine (11.4 ml) in n-butanol (200 ml) was refluxed for 2 hours. After evaporating the solvent, the residue was dissolved in a suspension of water (200 ml) and chloroform (200 ml). The separated organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. To this solution was added activated manganese dioxide (120 g) and the mixture was refluxed for 1 hour with stirring vigorously. After cooling to a room temperature, manganese dioxide was filtered off. The filtrate was evaporated in vacuo, and the residue was subjected to column chromatography on alumina (200 g) eluting with chloroform. The fractions containing the object compound were combined and concentrated under reduced pressure. The crystals were recrystallized from diethyl ether to give 6-methyl-5-(4-methylpiperazin-1-ylcarbonyl)-4-(3-nitrophenyl)-2-phenylpyrimidine.

reactant | 2-(4-methylpiperazin-1-ylcarbonyl)-1-(3-nitrophenyl)-1-buten-3-one | 20 g | CN1CCN(CC1)C(=O)C(=CC1=CC(=CC=C1)[N+](=O)[O-])C(C)=O | C16H19N3O4
reactant | benzamidine hydrochloride | 9.9 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | triethylamine | 11.4 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 6-methyl-5-(4-methylpiperazin-1-ylcarbonyl)-4-(3-nitrophenyl)-2-phenylpyrimidine | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C | C23H23N5O3
